US08114872B2
2-[2-(6-Fluoro-4-iodo-pyridin-3-yloxy)-ethyl]-isoindole-1,3-dione
Cool a suspension of 6-fluoro-4-iodo-pyridin-3-ol (1.5 g, 6.28 mmol) and K2CO3 (4.38 g, 31.4 mmol) in DMF (10 mL) to 0° C. in an ice bath under nitrogen. Add 2-(2-bromo-ethyl)-isoindole-1,3-dione (3.19 g, 12.55 mmol). Stir the mixture at RT overnight. Add water. Extract with ethyl acetate. Wash the solution with aqueous saturated sodium chloride. Dry over sodium sulfate. Concentrate the solution in vacuo. Purify by column chromatography (hexane to 30% ethyl acetate in hexane) to afford the title compound as a yellow oil (1.51 g, 58%). MS (ES) m/z 413 [M+1]+.

reactant | 6-fluoro-4-iodo-pyridin-3-ol | 6.28 mmol, 1.5 g | FC1=CC(=C(C=N1)O)I | C5H3FINO
reactant | K2CO3 | 31.4 mmol, 4.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(2-bromo-ethyl)-isoindole-1,3-dione | 12.55 mmol, 3.19 g | BrCCN1C(C2=CC=CC=C2C1=O)=O | C10H8BrNO2
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[2-(6-Fluoro-4-iodo-pyridin-3-yloxy)-ethyl]-isoindole-1,3-dione | 1.51 g, 58% | FC1=CC(=C(C=N1)OCCN1C(C2=CC=CC=C2C1=O)=O)I | C15H10FIN2O3
